US07732477B2
3-Bromo-5-fluoro-2-hydroxybenzaldehyde
1.0 g (5.24 mmol) of 2-bromo-4-fluorophenol is initially charged in 4 ml of TFA. Over a period of 20 min, 1.47 g (10.47 mmol) of hexamethylenetetramine are added a little at a time. The mixture is then heated under reflux for 28 h. At RT, 6 ml of water and 3 ml of 50% strength sulfuric acid are added. After 2 h at RT, the reaction mixture is extracted twice with in each case 30 ml of ethyl acetate. The combined organic phases are washed four times with 1N hydrochloric acid and once with water and then dried over magnesium sulfate. The crude product is reacted further without further purification.

reactant | 2-bromo-4-fluorophenol | 5.24 mmol, 1.0 g | BrC1=C(C=CC(=C1)F)O | C6H4BrFO
reactant | hexamethylenetetramine | 10.47 mmol, 1.47 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | water | 6 ml | O | H2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | TFA | 4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-Bromo-5-fluoro-2-hydroxybenzaldehyde | BrC=1C(=C(C=O)C=C(C1)F)O | C7H4BrFO2
